US09422292B2
NaOH (48 mg, 1.2 mmol) was added to a solution of ethyl 6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane]-2′-carboxylate (100 mg, 0.24 mmol) in MeOH (10 mL) and water (4 mL). It was stirred at room temperature overnight. The solution was adjust to pH=5 using HCl solution (1 M), then concentrated, adding dichloromethane (5 mL), filtered and the filtrate was concentrated to give crude 6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane]-2′-carboxylic acid, which was used in the next step directly. LRMS (M+H)+: 394 m/z.

reactant | NaOH | 1.2 mmol, 48 mg | [OH-].[Na+]
reactant | ethyl 6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane]-2′-carboxylate | 0.24 mmol, 100 mg | ClC1=CC=C(C=C1)N1C2=C(N3C(=NN=C3C)C3(C(C3)C(=O)OCC)C1=O)C=CC=C2 | C22H19ClN4O3
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
product | 6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane]-2′-carboxylic acid | ClC1=CC=C(C=C1)N1C2=C(N3C(=NN=C3C)C3(C(C3)C(=O)O)C1=O)C=CC=C2 | C20H15ClN4O3
